US06096906
To a solution of 4-trifluoromethyl-benzoic acid 2,2-dimethyl-propyl ester (35.8 g, 138 mmol) in tetrahydrofuran (250 mL) was added triisopropylborate (73.0 mL, 316 mmol). The solution was cooled to 0° C., lithium diisopropylamide (73.0 mL of a 2.0M solution in tetrahydrofuran/heptane, 146.0 mmol) was added dropwise over 20 minutes, and the red solution was stirred for an additional 30 minutes. Hexanes (200 mL) was added followed by 1N hydrochloric acid (200 mL). The mixture was stirred for 10 minutes and poured into hexanes (200 mL). The organic layer was washed with 1N hydrochloric acid (two times 150 mL), and brine (100 mL). The organic extracts were dried over magnesium sulfate, filtered, and concentrated to about 200 mL. Isopropyl alcohol (100 mL), and diethanolamine (15.95 g, 151.7 mmol) were added, and the mixture was stirred at room temperature for 10 hours. The solids were filtered and washed with a mixture of isopropyl alcohol (15 mL) and hexanes (30 mL) to provide 2-[1,3,6,2]dioxazaborocan-2-yl-4-trifluoromethyl-benzoic acid 2,2-dimethyl-propyl ester (37.83 g, 74% yield) as a white solid. mp=233-234° C; IR 3077, 2963, 2862, 1722, 1480, 1467, 1371, 1331, 1298, 1290, 1279, 1254, 1161, 1117, 1108, 1087, 1074, 995, 952, 862, cm-1, 1H NMR (400 MHz, CDCl3) δ 8.23 (s, 1H), 7.72 (d, J=7.9 Hz, 1H), 7.52 (dd, J=7.9, 1.3 Hz, 1H), 6.33 (brs, 1H), 4.08-4.14 (m, 2H), 3.98 (s, 2H), 3.93-3.98 (m, 2H), 3.42-3.50 (m, 2H), 2.88-2.94 (m, 2H), 1.02 (s, 9H); 13C NMR (100 MHz, CDCl3) 26.51, 31.69, 50.92, 63.33, 74.72, 123.94, 128.59, 132.06, 139.61, 171.56.

reactant | 4-trifluoromethyl-benzoic acid 2,2-dimethyl-propyl ester | 138 mmol, 35.8 g | CC(COC(C1=CC=C(C=C1)C(F)(F)F)=O)(C)C | C13H15F3O2
reactant | triisopropylborate | 316 mmol, 73.0 mL | C(C)(C)OB(OC(C)C)OC(C)C | C9H21BO3
reactant | lithium diisopropylamide | C(C)(C)[N-]C(C)C.[Li+]
reactant | hydrochloric acid | 1N, 200 mL | Cl | ClH
reactant | diethanolamine | 151.7 mmol, 15.95 g | N(CCO)CCO | C4H11NO2
solvent | tetrahydrofuran | 250 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran heptane | O1CCCC1.CCCCCCC
solvent | Isopropyl alcohol | 100 mL | C(C)(C)O | C3H8O
product | 2-[1,3,6,2]dioxazaborocan-2-yl-4-trifluoromethyl-benzoic acid 2,2-dimethyl-propyl ester | 37.83 g, 74% yield | CC(COC(C1=C(C=C(C=C1)C(F)(F)F)B1OCCNCCO1)=O)(C)C | C17H23BF3NO4
